2178-08-18 09:35:00 Physician Attending Progress Note
Chief Complaint: resp distress hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2178-8-17**] 12:35 PM
 ARTERIAL LINE - START [**2178-8-17**] 01:45 PM
   4 liters + since yesterday - initialy low SCVo2 then it rose
   This AM became HTN and tachycardic then acute resp distress - requiring
   BIPAP for what appears to be acute cardiogenic pulm edema
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-8-18**] 05:53 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-8-17**] 09:44 AM
   Ranitidine (Prophylaxis) - [**2178-8-18**] 08:00 AM
   Other medications:
   Amio, Percoset Klonopin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-18**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37
C (98.6
   HR: 77 (61 - 77) bpm
   BP: 136/52(74) {101/42(58) - 145/68(254)} mmHg
   RR: 19 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: JR (Junctional Rhythm)
   Wgt (current): 112 kg (admission): 101.2 kg
   Height: 74 Inch
   CVP: 14 (5 - 24)mmHg
   CO/CI (Fick): (58.3 L/min) / (25.6 L/min/m2)
   Mixed Venous O2% Sat: 91 - 96
   Total In:
                                                                  5,436 mL
                                                                    443 mL
   PO:
                                                                    599 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  2,901 mL
                                                                    193 mL
   Blood products:
                                                                    852 mL
   Total out:
                                                                  1,125 mL
                                                                    500 mL
   Urine:
                                                                  1,125 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,311 mL
                                                                    -57 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.44/40/91/24/2
   PaO2 / FiO2: 91
   Physical Examination
   Gen: lying in bed, on BIPAP
   CV; rr mech S2
   Chest: coarse rales bilat
   Abd end exp rounding
   Ext: left BKA
   Neuro: answering ?s
   Labs / Radiology
   9.0 g/dL
   155 K/uL
   216 mg/dL
   1.3 mg/dL
   24 mEq/L
   4.2 mEq/L
   50 mg/dL
   101 mEq/L
   132 mEq/L
   28.7 %
   12.3 K/uL
        [image002.jpg]
                             [**2178-8-17**]  10:30 AM
                             [**2178-8-17**]  01:06 PM
                             [**2178-8-17**]  04:06 PM
                             [**2178-8-17**]  08:29 PM
                             [**2178-8-18**]  02:16 AM
   WBC
   14.6
   14.6
   15.3
   12.3
   Hct
   25.1
   28.8
   30.1
   28.7
   Plt
   163
   159
   160
   155
   Cr
   0.9
   1.4
   1.3
   1.3
   TropT
   0.03
   0.04
   0.05
   0.05
   TCO2
   28
   Glucose
   93
   [**Telephone/Fax (3) 10084**]
   Other labs: PT / PTT / INR:33.0/53.3/3.3, CK / CKMB /
   Troponin-T:40//0.05, ALT / AST:23/31, Alk Phos / T Bili:65/0.8,
   Differential-Neuts:83.5 %, Lymph:11.2 %, Mono:4.3 %, Eos:0.9 %,
   Fibrinogen:318 mg/dL, Lactic Acid:1.3 mmol/L, LDH:205 IU/L, Ca++:7.7
   mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DIABETES MELLITUS (DM), TYPE I
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SIRS
 URINARY TRACT INFECTION (UTI)
   1.       Acute Cardiogenic Edema: in setting of volume resuscitation
   yesterday and now with agitation and HTN this AM decompensation. Will
   Rx with NIPPV, Lasix, Nitro, Morphine
 follow exam closely. Restart
   home anti HTN soon as we wean Nitro
 l;ikely need 1-2 L negative but
   will re eval closely through AM
   2.       SIRS/sepsis: source likely urine, all cx pending, maintain on
   broad spectrum ABX _MAPS and SCVO2 reasonable
   3.       AVR: inr 3.3
 bridge with IV heparin when inr close to 2.5
   4.       ARF: stable. Watch UOP with acute diuresis
   5.       Hemolysis: likely across valve, can get smear and trend labs
   6.       Anemia: no evidence for acute bleeding, stable HCT, abd CT neg
   for RP bleed, trend -
   ICU Care
   Nutrition: NPO on NIPPV
 but did eat this AM
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-8-17**] 09:07 AM
   Multi Lumen - [**2178-8-17**] 12:35 PM
   Arterial Line - [**2178-8-17**] 01:45 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: H2
   Communication:  with pt- and will contact wife
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2178-08-19 08:49:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2178-8-18**] 09:21 AM
 NON-INVASIVE VENTILATION - STOP [**2178-8-18**] 01:35 PM
 NON-INVASIVE VENTILATION - START [**2178-8-19**] 05:00 AM
 EKG - At [**2178-8-19**] 06:05 AM
   Was doing better off NIPPV and did well all evening but when they moved
   him to get AM CXR back into acute res distress
   urine output was falling off Given Lasix without response then Diuril
   Levophed 0.03
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2178-8-18**] 04:00 PM
   Meropenem - [**2178-8-19**] 05:57 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2178-8-19**] 04:45 AM
   Morphine Sulfate - [**2178-8-19**] 04:46 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, Tachypnea
   Flowsheet Data as of  [**2178-8-19**] 08:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 84 (69 - 134) bpm
   BP: 101/73(85) {61/46(55) - 169/101(124)} mmHg
   RR: 20 (13 - 36) insp/min
   SpO2: 96%
   Heart rhythm: JR (Junctional Rhythm)
   Wgt (current): 112 kg (admission): 101.2 kg
   Height: 74 Inch
   CVP: 11 (4 - 32)mmHg
   Total In:
                                                                  1,043 mL
                                                                    563 mL
   PO:
                                                                    450 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    593 mL
                                                                    363 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                    321 mL
   Urine:
                                                                  2,105 mL
                                                                    321 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,062 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 912 (506 - 976) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: 7.39/40/169/22/0
   Ve: 12.8 L/min
   PaO2 / FiO2: 282
   Physical Examination
   Gen: lying in bed, off BIPAP- mod resp distress
   CV; rr mech S2
   Chest: coarse rales bilat  left sided wheeze
   Abd end exp rounding
   Ext: left BKA
   Neuro: answering ?s
   Labs / Radiology
   9.7 g/dL
   182 K/uL
   253 mg/dL
   1.4 mg/dL
   22 mEq/L
   4.0 mEq/L
   55 mg/dL
   96 mEq/L
   130 mEq/L
   30.9 %
   10.4 K/uL
        [image002.jpg]
                             [**2178-8-17**]  01:06 PM
                             [**2178-8-17**]  04:06 PM
                             [**2178-8-17**]  08:29 PM
                             [**2178-8-18**]  02:16 AM
                             [**2178-8-18**]  10:05 AM
                             [**2178-8-18**]  01:12 PM
                             [**2178-8-18**]  04:55 PM
                             [**2178-8-19**]  12:10 AM
                             [**2178-8-19**]  04:00 AM
                             [**2178-8-19**]  06:55 AM
   WBC
   14.6
   15.3
   12.3
   10.4
   Hct
   28.8
   30.1
   28.7
   29.8
   30.9
   Plt
   159
   160
   155
   182
   Cr
   1.4
   1.3
   1.3
   1.3
   1.4
   TropT
   0.04
   0.05
   0.05
   0.04
   0.07
   0.06
   TCO2
   28
   26
   25
   Glucose
   [**Telephone/Fax (3) 10091**]14
   253
   Other labs: PT / PTT / INR:31.2/50.0/3.1, CK / CKMB /
   Troponin-T:59/4/0.06, ALT / AST:23/31, Alk Phos / T Bili:65/0.8,
   Differential-Neuts:83.5 %, Lymph:11.2 %, Mono:4.3 %, Eos:0.9 %,
   Fibrinogen:318 mg/dL, Lactic Acid:1.9 mmol/L, LDH:205 IU/L, Ca++:8.2
   mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 COAGULOPATHY
 .H/O PULMONARY EDEMA
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DIABETES MELLITUS (DM), TYPE I
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SIRS
 URINARY TRACT INFECTION (UTI)
   1.       Acute Cardiogenic Edema: in setting of volume resuscitation
   yesterday and appears that he has ended up in decomp systolic CHF and
   may need pressors and Lasix drip to try to get him back on the Starling
   curve
 goal 1 L by afternoon and push diresis to acheive.  Will get
   Echo- check SCVo2 -  Will Rx with NIPPV, Lasix, Nitro, Morphine
   follow exam closely. He had Cards follow up here but appears to have
   switched to [**Hospital1 1244**]- clarify with his wife- we can consult Cards if this
   algorithm fails to improve
 no acute indication for pure inotropic
   support at present.
   2.       SIRS/sepsis: source likely urine, GNR await speciation. Keep
   on [**Last Name (un) **], d/c Dapto -
   3.       AVR: inr 3.3
 bridge with IV heparin when inr close to 2.5
   4.       ARF: stable. Watch UOP with acute diuresis
   5.       Hemolysis: likely across valve, can get smear and trend labs
   ICU Care
   Nutrition: NPO while n NIPPV
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-8-17**] 09:07 AM
   Multi Lumen - [**2178-8-17**] 12:35 PM
   Arterial Line - [**2178-8-17**] 01:45 PM
   Prophylaxis:
   DVT: coumadin, heparin bridge
   Stress ulcer: H2
   Communication:  with pt and met with wife yesterday
   [**Name2 (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 45

2178-08-20 06:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2178-8-19**] 11:13 AM
 TRANSTHORACIC ECHO - At [**2178-8-19**] 04:32 PM
 BLOOD CULTURED - At [**2178-8-19**] 08:30 PM
 FEVER - 101.5
F - [**2178-8-19**] 08:00 PM
   -difficulty with A-line tracing yesterday, not registering good
   waveform.  Line initially adjusted, dressing changed, with good
   results.  However, the tracing looked poor again later, so the line was
   changed over a wire.  Good waveform since then.
   -ID advised 14 day total course of meropenem.
   -continued to have episodes of respiratory distress off bi-pap during
   the day.  Lasix drip increased to be more aggressive with UOP.
   -echo done - showed decreased EF, consistent with volume overload.
   Also question of abnormal flow around prosthetic valve, increased
   gradient across valve.
   -temperature spiked to 101.5, cultures drawn, Tylenol given.
   -continued Lasix drip, BiPAP overnight.  At 1:30, notified by nurse
   that bag for Lasix drip was concentrated, so that the patient had been
   receiving 5x intended dose.  Lasix drip stopped at that point.  Urine
   output brisk overnight.
   -Then at 5 am the patient's heart rate increased, up to 120's, with
   stable blood pressure, off Levophed.  EKG showed sinus tach, ABG with
   PO2 66.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2178-8-19**] 04:40 PM
   Meropenem - [**2178-8-19**] 11:51 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2178-8-19**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-20**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.9
C (98.4
   HR: 108 (68 - 119) bpm
   BP: 134/62(81) {69/33(-3) - 149/130(132)} mmHg
   RR: 21 (15 - 35) insp/min
   SpO2: 100%
   Heart rhythm: JT (Junctional Tachycardia)
   Wgt (current): 112.8 kg (admission): 101.2 kg
   Height: 74 Inch
    CVP: 11 (-6 - 18)mmHg
   Mixed Venous O2% Sat: 66 - 98
   Total In:
                                                                  1,572 mL
                                                                    206 mL
   PO:
                                                                    200 mL
   TF:
   IVF:
                                                                  1,372 mL
                                                                    206 mL
   Blood products:
   Total out:
                                                                  2,309 mL
                                                                  1,210 mL
   Urine:
                                                                  2,309 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -737 mL
                                                                 -1,004 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 502 (502 - 912) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.50/34/66/25/3
   Ve: 15 L/min
   PaO2 / FiO2: 165
   Physical Examination
   Anxious, but no acute distress, reports feeling better than yesterday.
   Breathing slightly labored, with diffuse ins/exp rales, though improved
   from yesterday.
   RRR, loud mechanical S2
   Abdomen obese, soft, non-tender, positive bowel sounds.
   Distal pulses 2+, trace pedal edema.
   Labs / Radiology
   222 K/uL
   9.4 g/dL
   200 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.4 mEq/L
   57 mg/dL
   100 mEq/L
   135 mEq/L
   28.9 %
   12.3 K/uL
        [image002.jpg]
                             [**2178-8-18**]  01:12 PM
                             [**2178-8-18**]  04:55 PM
                             [**2178-8-19**]  12:10 AM
                             [**2178-8-19**]  04:00 AM
                             [**2178-8-19**]  06:55 AM
                             [**2178-8-19**]  02:52 PM
                             [**2178-8-19**]  03:04 PM
                             [**2178-8-19**]  06:10 PM
                             [**2178-8-20**]  01:32 AM
                             [**2178-8-20**]  05:48 AM
   WBC
   10.4
   12.3
   Hct
   29.8
   30.9
   28.9
   Plt
   182
   222
   Cr
   1.3
   1.4
   1.5
   1.5
   TropT
   0.07
   0.06
   0.07
   0.09
   0.10
   TCO2
   26
   25
   29
   27
   Glucose
   [**Telephone/Fax (3) 10100**]00
   Other labs: PT / PTT / INR:26.4/55.1/2.6, CK / CKMB /
   Troponin-T:51/3/0.10, ALT / AST:23/31, Alk Phos / T Bili:65/0.8,
   Differential-Neuts:83.5 %, Lymph:11.2 %, Mono:4.3 %, Eos:0.9 %,
   Fibrinogen:318 mg/dL, Lactic Acid:1.9 mmol/L, LDH:205 IU/L, Ca++:8.1
   mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 COAGULOPATHY
 .H/O PULMONARY EDEMA
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DIABETES MELLITUS (DM), TYPE I
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SIRS
 URINARY TRACT INFECTION (UTI)
   67 year old male with complicated medical history, multiple vascular
   and cardiac surgeries, history of CHF, low EF.  Admitted with
   pseudomonal UTI, now with respiratory distress, intermittently
   requiring BiPAP.  Increased HR this morning of unclear etiology
 could
   be [**1-26**] compensation for decreased cardiac output after stopping
   Levophed, overdiuresis, possible SIRS.
   #Volume status
 plan for yesterday was to diurese, in the setting of
   flash pulmonary edema, hoping to improve respiratory status by
   optimizing cardiac function, reducing pulmonary edema.
   -Echo yesterday showed decreased EF, likely volume overload.  (Other
   findings discussed below)
   -Diuresed well overnight, after running even for much of yesterday.
   - Continue BiPAP for now, but cannot rely on this indefinitely.
   - ABGs with clinical changes.
   -Continue to diurese, hoping to improve function with fluid removal.
   - Re-send mixed venous O2
 values of labs sent overnight do not make
   physiologic sense.
   -Will consider restarting pressors to provide inotropic support if
   necessary.
   # Chronic Systolic CHF - EF 25-30% s/p VF arrest [**2175**] and ICD
   explantation/ MVR
   - echo yesterday shows evidence of increased gradient across valve,
   question of possible abnormal flow around valve.
   -EKG remains difficult to interpret, however does not reflect any acute
   process.
   -following cardiac enzymes, gradual increase likely due to demand
   ischemia.
   -Plan to consult cardiology, with question of possible TEE to further
   investigate echo findings, also to consult on optimizing cardiac
   function.
   # UTI, possible SIRS
 WBC down from admission, stable. Unclear cause
   for fever overnight
 could be due to urinary infection
   - no clear evidence for other source, but will follow up culture
   results.
   - ID following, recommend 2 week course of meropenem.
   - no change to antibiotic regimen for now, will continue to follow WBC,
   re-assess if further febrile episodes.
   -check lactate,
   -check mixed venous 02.
   #History of mechanical valve, INR 2.6 today.
   -will plan to restart coumadin with heparin bridge until consistently
   therapeutic.
   #ARF: Cr 1.5 on admission
 stable.
   -continue to trend creatinine, monitor urine output, fluid status.
   # DM type 2
   Blood sugars continuing to stay in low 200
   -will adjust lantus and sliding scale regimen to optimize blood sugars.
   # Dyslipidemia - continue statin
   .
   # FEN - diabetic/cardiac diet, replete lytes PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-17**] 12:35 PM
   Arterial Line - [**2178-8-17**] 01:45 PM
   Prophylaxis:
   DVT:  boots, INR 2.6
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full code
   Disposition:  ICU

2178-08-20 09:04:00 Physician Attending Progress Note
Chief Complaint: resp distress hypotension heart failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2178-8-19**] 11:13 AM
 TRANSTHORACIC ECHO - At [**2178-8-19**] 04:32 PM
 BLOOD CULTURED - At [**2178-8-19**] 08:30 PM
 EKG - At [**2178-8-20**] 05:40 AM
 FEVER - 101.5
F - [**2178-8-19**] 08:00 PM
   Echo: LVEF 15-20% from 30 worsenign MR and
   small abnormal diastolic flow in the ascending aorta involving the
   anterior portion of the ?ascending aorta graft (clips 17, 41).
   Also the left ventricular inflow pattern suggests a restrictive filling
   abnormality, with elevated left atrial pressure.
   Lasix drip - had been concentrated to 500 mg per bag instead 100 mg per
   bag but was run in at the same rate- so got 100 mg - so lasix was held
   Off Levophed his BP has been 110/60 but HR up to 115-120 range
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2178-8-19**] 04:40 PM
   Meropenem - [**2178-8-19**] 11:51 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2178-8-19**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2178-8-20**] 08:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.9
C (98.4
   HR: 121 (68 - 121) bpm
   BP: 121/58(76) {69/33(-3) - 149/130(132)} mmHg
   RR: 24 (17 - 35) insp/min
   SpO2: 99%
   Heart rhythm: JT (Junctional Tachycardia)
   Wgt (current): 112.8 kg (admission): 101.2 kg
   Height: 74 Inch
   CVP: 10 (-6 - 18)mmHg
   Mixed Venous O2% Sat: 66 - 98
   Total In:
                                                                  1,572 mL
                                                                    231 mL
   PO:
                                                                    200 mL
   TF:
   IVF:
                                                                  1,372 mL
                                                                    231 mL
   Blood products:
   Total out:
                                                                  2,309 mL
                                                                  1,370 mL
   Urine:
                                                                  2,309 mL
                                                                  1,370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -737 mL
                                                                 -1,139 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 772 (502 - 901) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.50/34/66/25/3
   Ve: 17.8 L/min
   PaO2 / FiO2: 165
   Physical Examination
   Gen: lying in bed, off BIPAP- mod resp distress
   CV; rr mech S2
   Chest: coarse rales bilat
   Abd end exp rounding ++
   Ext: left BKA warm
   Neuro: answering ?s but is in resp distress
   Labs / Radiology
   9.4 g/dL
   222 K/uL
   200 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.4 mEq/L
   57 mg/dL
   100 mEq/L
   135 mEq/L
   28.9 %
   12.3 K/uL
        [image002.jpg]
                             [**2178-8-18**]  01:12 PM
                             [**2178-8-18**]  04:55 PM
                             [**2178-8-19**]  12:10 AM
                             [**2178-8-19**]  04:00 AM
                             [**2178-8-19**]  06:55 AM
                             [**2178-8-19**]  02:52 PM
                             [**2178-8-19**]  03:04 PM
                             [**2178-8-19**]  06:10 PM
                             [**2178-8-20**]  01:32 AM
                             [**2178-8-20**]  05:48 AM
   WBC
   10.4
   12.3
   Hct
   29.8
   30.9
   28.9
   Plt
   182
   222
   Cr
   1.3
   1.4
   1.5
   1.5
   TropT
   0.07
   0.06
   0.07
   0.09
   0.10
   TCO2
   26
   25
   29
   27
   Glucose
   [**Telephone/Fax (3) 10100**]00
   Other labs: PT / PTT / INR:26.4/55.1/2.6, CK / CKMB /
   Troponin-T:51/3/0.10, ALT / AST:23/31, Alk Phos / T Bili:65/0.8,
   Differential-Neuts:83.5 %, Lymph:11.2 %, Mono:4.3 %, Eos:0.9 %,
   Fibrinogen:318 mg/dL, Lactic Acid:1.9 mmol/L, LDH:205 IU/L, Ca++:8.1
   mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 COAGULOPATHY
 .H/O PULMONARY EDEMA
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DIABETES MELLITUS (DM), TYPE I
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SIRS
 URINARY TRACT INFECTION (UTI)
   1.       Decompensated heart failure: very tenuous and BIPAP dependent
   and on/off pressors, echo clearly overloaded with lower EF and worse
   MR- we are pushing diuresis with pressors as needed. PA line would
   likely show high right and left pressures and low CO- and with LBBB
   relative contraindication. [**Name2 (NI) **] for Cards consultation with primary
   questions being
   A.       any other ways to optimize hemodynamics
 risk benefit of
   inotropes given known VF and ICD out,
   B.       possible ischemia driving this phenomenon,
   C.      Role for TEE in light of echo findings.
   2.       Fevers: UTI known but has been on ABX- new coughing, check
   sputum continue [**Last Name (un) 430**]
   3.       Valve- inr falling, needs bridge with heparin for valve
   4.       ARF: stable- watch after Lasix and poor perfusion
   We will speak with his wife about all these issues as he remains near
   BIPAP dependent and may be moving to extubation if we cannot optimize
   him. Also he would need intubation if TEE
   Remining issues as per Housestaff.
   ICU Care
   Nutrition: not getting good pos- if ends up intubated will start TFs
   Glycemic Control:  increase glycemic control
   Lines:
   Multi Lumen - [**2178-8-17**] 12:35 PM
   Arterial Line - [**2178-8-17**] 01:45 PM
   Prophylaxis:
   DVT: heoarin drip
   Stress ulcer: PPI
   Communication:  with pt and wife
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2178-08-21 06:41:00 Physician Resident Progress Note
Chief Complaint: 67 M with complicated PMHx, multiple vascular and
   cardiac surgeries including mechanical MV, systolic CHF, a/w
   pseudomonal UTI, hypotension with resuscitation and subsequent
   respiratory distress requiring intermittent BiPAP and levophed.
   24 Hour Events:
   -Cardiology consulted: hypotension likely more distributive than
   cardiogenic. Continue levophed, no ionotropic [**Doctor Last Name **] at this point. Echo
   results were likely due to demand and fluid overload. Continue diuresis
   until bump in Cr, then continue home lasix dose.
   -During day pt on BiPAP, tolerated well, hypotension requiring
   levophed, however decreased heart rate. Off BiPAP and doing well for
   multiple hours last night. Then called to patient for hypoxic
   respiratory distress, using abdomen. Restarted BiPAP, ABG showed PaO2
   of 41. Responded well to BiPAP.
   -Coumadin restarted, on heparin bridge
 NON-INVASIVE VENTILATION - STOP [**2178-8-20**] 09:02 AM
 EKG - At [**2178-8-20**] 10:00 AM
 NON-INVASIVE VENTILATION - START [**2178-8-20**] 10:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2178-8-19**] 04:40 PM
   Meropenem - [**2178-8-21**] 01:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Furosemide (Lasix) - 10 mg/hour
   Heparin Sodium - 1,550 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2178-8-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-21**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.5
C (97.7
   HR: 77 (74 - 125) bpm
   BP: 118/57(75) {79/43(56) - 131/67(83)} mmHg
   RR: 10 (10 - 27) insp/min
   SpO2: 100%
   Heart rhythm: JR (Junctional Rhythm)
   Wgt (current): 112.8 kg (admission): 101.2 kg
   Height: 74 Inch
    CVP: 15 (6 - 15)mmHg
   Mixed Venous O2% Sat: 73 - 73
   Total In:
                                                                  1,534 mL
                                                                    425 mL
   PO:
                                                                    400 mL
   TF:
   IVF:
                                                                  1,134 mL
                                                                    425 mL
   Blood products:
   Total out:
                                                                  2,920 mL
                                                                    400 mL
   Urine:
                                                                  2,920 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,386 mL
                                                                     25 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 799 (772 - 887) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.42/44/135/26/4
   Ve: 11.3 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: BiPAP
   Cardiovascular: (S1: Normal), (S2: Normal), Mechanical valve sound
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, No(t) Oriented
   (to): , Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   235 K/uL
   9.3 g/dL
   154 mg/dL
   1.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   59 mg/dL
   100 mEq/L
   138 mEq/L
   29.0 %
   15.5 K/uL
        [image002.jpg]
                             [**2178-8-19**]  03:04 PM
                             [**2178-8-19**]  06:10 PM
                             [**2178-8-20**]  01:32 AM
                             [**2178-8-20**]  05:48 AM
                             [**2178-8-20**]  10:49 AM
                             [**2178-8-20**]  04:24 PM
                             [**2178-8-20**]  05:50 PM
                             [**2178-8-20**]  11:22 PM
                             [**2178-8-21**]  01:58 AM
                             [**2178-8-21**]  04:21 AM
   WBC
   12.3
   15.5
   Hct
   28.9
   29.0
   Plt
   222
   235
   Cr
   1.5
   1.5
   1.5
   1.6
   TropT
   0.09
   0.10
   TCO2
   29
   27
   30
   28
   30
   Glucose
   200
   100
   113
   154
   Other labs: PT / PTT / INR:33.0/150.0/3.3, CK / CKMB /
   Troponin-T:51/3/0.10, ALT / AST:23/31, Alk Phos / T Bili:65/0.8,
   Differential-Neuts:87.3 %, Lymph:7.1 %, Mono:4.8 %, Eos:0.7 %,
   Fibrinogen:318 mg/dL, Lactic Acid:2.5 mmol/L, LDH:205 IU/L, Ca++:8.6
   mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR - worsened from prior
   Microbiology: Blood cultures pending
   Assessment and Plan
   67M with complicated PMHx including vascular and cardiac surgeries,
   mechanical valve replacement, CHF, admitted with pseudomonas UTI,
   respiratory distress likely secondary to CHF requiring intermittent
   BiPAP, levophed and diureses
   .
   # systolic CHF - Prior echo EF 25-30% . Repeat echo estimated EF at
   20%. Cardiology consulted and recommend levophed and diuresis until
   creatinine bumps and then resume home lasix. Think this is likely
   mostly distributive, with some component of cardiogenic hypotension.
   They do not recommend ionotrope at this point. Also, they think echo is
   related to demand changes and fluid overload. This is likely
   contributing to pulmonary edema resulting in hypoxic respiratory
   distress. Diuresis has improved his respiratory status to date. Still
   up 1L of fluid for the day. Had acute episode of hypoxemia which
   responded to BiPAP. No TEE at this point.
   -Continue to diurese (furosemide, chlorothiazide) today until Cr bumps
   further, then restart home lasix dose
   -If tolerates consider PO metolazone to boost diuresis
   -Continue norepinephrine as needed to keep MAPs > 60 and UOP at
   100ml/hr, wean as tolerated
   -BiPAP as needed, ABGs as needed for respiratory distress
   -Appreciate cardiology recs
   .
   # Hypoxic respiratory distress - accompanied by increased work of
   breathing. Likely secondary to overall volume status. Treat systolic
   CHF.
   -Per above
   .
   # Hypotension - requiring pressor support. Cardiogenic vs distributive.
   Decreased EF. Febrile. WBC increasing. Dapto was d/c'ed. UTI only
   infectious source at this time.
   -Per above
   -Continue meropenem (day [**3-7**]) as treatment for UTI
   -F/u culture data - add abx as appropriate
   -Trend WBC, clinical status
   -Pan-culture if spikes, tylenol
   -Stool for c.diff.
   -TSH, random cortisol
   .
   # UTI - WBC trending up. Febrile again. UTI infection. ID following
   -Per above
   -Appreciate ID recs
   .
   # Mechanical MV - INR goal range 2.5 - 3.5. Currently at goal. INR
   remained elevated throughout stay. D/C'ed heparin drip
   -Continue coumadin, decreased dose today to 3
   -Follow daily INR
   .
   # ARF - Cr 1.5 on admission. To 1.6 today. Aggressive diuresis. Will
   slow diuresis once Cr increases.
   -PM lytes, BUN/Cr
   -UOP goal > 100
   .
   # DM type 2 - Altered insulin sliding scale yesterday.
   -Mostly appropriate levels. Continue to monitor.
   -ISS
   .
   # Dyslipidemia - continue statin
   .
   # FEN - currently on clears
   -advance to diabetic/cardiac diet as respiratory status improves
   -replete lytes PRN
   ICU Care
   Nutrition:
   Comments: clears
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2178-8-17**] 12:35 PM
   Arterial Line - [**2178-8-17**] 01:45 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2178-08-21 09:26:00 Physician Attending Progress Note
Chief Complaint: hypotension, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2178-8-20**] 09:02 AM
 EKG - At [**2178-8-20**] 10:00 AM
 NON-INVASIVE VENTILATION - START [**2178-8-20**] 10:00 AM
   Cards consulted and agrees mixed cardiogenic distributive process and
   agreed with vasopressors supported diuresis
   Off BIPAP x 6 hrs but then restarted last PM in setting of temp spike
   and resp distress
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2178-8-19**] 04:40 PM
   Meropenem - [**2178-8-21**] 06:12 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Atorva, Amio, ASA, Lasix 10 /hr
   Xopenex, Coumadin, Atrovent,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2178-8-21**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.5
C (97.7
   HR: 73 (73 - 117) bpm
   BP: 123/58(78) {79/43(56) - 131/62(80)} mmHg
   RR: 11 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 112.8 kg (admission): 101.2 kg
   Height: 74 Inch
   CVP: 15 (6 - 17)mmHg
   Mixed Venous O2% Sat: 73 - 73
   Total In:
                                                                  1,534 mL
                                                                    575 mL
   PO:
                                                                    400 mL
   TF:
   IVF:
                                                                  1,134 mL
                                                                    575 mL
   Blood products:
   Total out:
                                                                  2,920 mL
                                                                    730 mL
   Urine:
                                                                  2,920 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,386 mL
                                                                   -155 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 762 (762 - 961) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 9 cmH2O
   SpO2: 100%
   ABG: 7.42/44/135/26/4
   Ve: 14.2 L/min
   PaO2 / FiO2: 338
   Physical Examination
   Gen: lying in bed, off BIPAP- mod resp distress
   CV; rr mech S2
   Chest: coarse rales bilat
   Abd end exp rounding ++
   Ext: left BKA warm
   Neuro: answering ?s but is in resp distress
   Labs / Radiology
   9.3 g/dL
   235 K/uL
   154 mg/dL
   1.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   59 mg/dL
   100 mEq/L
   138 mEq/L
   29.0 %
   15.5 K/uL
        [image002.jpg]
                             [**2178-8-19**]  03:04 PM
                             [**2178-8-19**]  06:10 PM
                             [**2178-8-20**]  01:32 AM
                             [**2178-8-20**]  05:48 AM
                             [**2178-8-20**]  10:49 AM
                             [**2178-8-20**]  04:24 PM
                             [**2178-8-20**]  05:50 PM
                             [**2178-8-20**]  11:22 PM
                             [**2178-8-21**]  01:58 AM
                             [**2178-8-21**]  04:21 AM
   WBC
   12.3
   15.5
   Hct
   28.9
   29.0
   Plt
   222
   235
   Cr
   1.5
   1.5
   1.5
   1.6
   TropT
   0.09
   0.10
   TCO2
   29
   27
   30
   28
   30
   Glucose
   200
   100
   113
   154
   Other labs: PT / PTT / INR:33.0/150.0/3.3, CK / CKMB /
   Troponin-T:51/3/0.10, ALT / AST:23/31, Alk Phos / T Bili:65/0.8,
   Differential-Neuts:87.3 %, Lymph:7.1 %, Mono:4.8 %, Eos:0.7 %,
   Fibrinogen:318 mg/dL, Lactic Acid:2.5 mmol/L, LDH:205 IU/L, Ca++:8.6
   mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   CXR: cardiomegaly, slight cutoff of diaphragms but look more clear
   Assessment and Plan
 COAGULOPATHY
 .H/O PULMONARY EDEMA
 DIABETES MELLITUS (DM), TYPE I
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SIRS
 URINARY TRACT INFECTION (UTI)
   1.       Decompensated heart failure: very tenuous and BIPAP dependent
   and on/off pressors, echo clearly overloaded with lower EF and worse
   MR- we are pushing diuresis with pressors as needed. PA line would
   likely show high right and left pressures and low CO- and with LBBB
   relative contraindication. [**Name2 (NI) **] for Cards consultation with primary
   questions being
   A.       any other ways to optimize hemodynamics
 risk benefit of
   inotropes given known VF and ICD out,
   B.       possible ischemia driving this phenomenon,
   C.      Role for TEE in light of echo findings.
   2.       Fevers: UTI known but has been on ABX- new coughing, check
   sputum continue [**Last Name (un) 430**]
   3.       Valve- inr , needs bridge with heparin for valve
   4.       ARF: stable- watch after Lasix and poor perfusion
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-17**] 12:35 PM
   Arterial Line - [**2178-8-17**] 01:45 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   Communication:  with pt and wife
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent:
   Chief Complaint: hypotension, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2178-8-20**] 09:02 AM
 EKG - At [**2178-8-20**] 10:00 AM
 NON-INVASIVE VENTILATION - START [**2178-8-20**] 10:00 AM
   Cards consulted and agrees mixed cardiogenic distributive process and
   agreed with vasopressors supported diuresis
   Off BIPAP x 6 hrs but then restarted last PM in setting of temp spike
   and resp distress
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2178-8-19**] 04:40 PM
   Meropenem - [**2178-8-21**] 06:12 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Atorva, Amio, ASA, Lasix 10 /hr
   Xopenex, Coumadin, Atrovent,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2178-8-21**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.5
C (97.7
   HR: 73 (73 - 117) bpm
   BP: 123/58(78) {79/43(56) - 131/62(80)} mmHg
   RR: 11 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 112.8 kg (admission): 101.2 kg
   Height: 74 Inch
   CVP: 15 (6 - 17)mmHg
   Mixed Venous O2% Sat: 73 - 73
   Total In:
                                                                  1,534 mL
                                                                    575 mL
   PO:
                                                                    400 mL
   TF:
   IVF:
                                                                  1,134 mL
                                                                    575 mL
   Blood products:
   Total out:
                                                                  2,920 mL
                                                                    730 mL
   Urine:
                                                                  2,920 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,386 mL
                                                                   -155 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 762 (762 - 961) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 9 cmH2O
   SpO2: 100%
   ABG: 7.42/44/135/26/4
   Ve: 14.2 L/min
   PaO2 / FiO2: 338
   Physical Examination
   Gen: lying in bed, off BIPAP- mod resp distress
   CV; rr mech S2
   Chest: coarse rales bilat
   Abd end exp rounding ++
   Ext: left BKA warm
   Neuro: answering ?s but is in resp distress
   Labs / Radiology
   9.3 g/dL
   235 K/uL
   154 mg/dL
   1.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   59 mg/dL
   100 mEq/L
   138 mEq/L
   29.0 %
   15.5 K/uL
        [image002.jpg]
                             [**2178-8-19**]  03:04 PM
                             [**2178-8-19**]  06:10 PM
                             [**2178-8-20**]  01:32 AM
                             [**2178-8-20**]  05:48 AM
                             [**2178-8-20**]  10:49 AM
                             [**2178-8-20**]  04:24 PM
                             [**2178-8-20**]  05:50 PM
                             [**2178-8-20**]  11:22 PM
                             [**2178-8-21**]  01:58 AM
                             [**2178-8-21**]  04:21 AM
   WBC
   12.3
   15.5
   Hct
   28.9
   29.0
   Plt
   222
   235
   Cr
   1.5
   1.5
   1.5
   1.6
   TropT
   0.09
   0.10
   TCO2
   29
   27
   30
   28
   30
   Glucose
   200
   100
   113
   154
   Other labs: PT / PTT / INR:33.0/150.0/3.3, CK / CKMB /
   Troponin-T:51/3/0.10, ALT / AST:23/31, Alk Phos / T Bili:65/0.8,
   Differential-Neuts:87.3 %, Lymph:7.1 %, Mono:4.8 %, Eos:0.7 %,
   Fibrinogen:318 mg/dL, Lactic Acid:2.5 mmol/L, LDH:205 IU/L, Ca++:8.6
   mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   CXR: cardiomegaly, slight cutoff of diaphragms but look more clear
   Assessment and Plan
 COAGULOPATHY
 .H/O PULMONARY EDEMA
 DIABETES MELLITUS (DM), TYPE I
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SIRS
 URINARY TRACT INFECTION (UTI)
   1.       Hypotension in setting Decompensated heart failure and likely
   some distributive component with persistent fevers: tenuous and on/off
   BIPAP -on/off pressors. I was encouraged yesterday when he came off
   BIPAP for many hours and appeared to be turning a corner.  However this
   AM he looks like he may go back on.         Echo clearly overloaded
   with lower EF and worse MR- we are pushing diuresis with pressors as
   needed.
                         Cards consultation is in agrrement with plan and
   Dr [**Last Name (STitle) 4646**] who knows him well feels that pushing diuresis is
   best option at this point. We continue to search for underlying cause
   for infection.
   2. Respiratpry Distress: Seems like pulm edema is accounting for
   majority of this process though it is hard to rule out CAP
 we had
   covered with [**First Name9 (NamePattern2) 9562**] [**Last Name (un) **] and paired to [**Last Name (un) **] since only + was a UA. We
   will send sputum today as he is coughing a bit and consider added back
   MRSA coverage if he remains BIPAP dependent- though this is empiric.
   Clearly he cannot remiaing on BIPAP for most of the day for much
   longer- yet a decision to intubate is not without risk and we would
   need to discuss  with he and his wife.
   3. Fevers: UTI known but has been on ABX- new coughing, check sputum,
   repeat CXR  Continue [**Last Name (un) 430**] Pan Cx and follow up
 check C diff. Occult
   abscess is an issue given hx of bacteremia but nothing thus far in
   blood cx.
   5.       ARF: tough balance as he needs diuresis to improve forward
   flow. Cr up to 1.6 today and bears very close watching.
   6.       Valve- inr , needs bridge with heparin for valve
   Remaiing issues as per Housestaff
   ICU Care
   Nutrition: po diet as able, [**Doctor First Name 470**]
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-17**] 12:35 PM
   Arterial Line - [**2178-8-17**] 01:45 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   Communication:  with pt and wife
 she was updated yesterday we will
   try to speak with her today as well
   Code status: Full code
   Disposition: ICU
   Criticla Care 45 min

2178-08-21 17:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2178-8-20**] 09:02 AM
 EKG - At [**2178-8-20**] 10:00 AM
 NON-INVASIVE VENTILATION - START [**2178-8-20**] 10:00 AM
   Cards consulted: recommended continuing levophed, hypotension likely
   more distributive than cardiogenic. No ionotropic [**Doctor Last Name **] at this point.
   Thinks echo changes likely demand related, not failure/infection of his
   AVR. Slightly worsened MR may be due to fluid overload and secondary to
   dilation of mitral annulus. Continue diuresis until creatinine bumps,
   then resume home lasix.
   -Pt on BiPAP - tolerated well, decreased blood pressure, required
   levophed, decreased heart rate. Off BiPAP increased heart rate,
   pressures okay off levophed for a while, then slowly decreased to point
   of requiring levophed again.
   -Vigileo - showed good cardiac output, low pulse pressure variation
   -Coumadin restarted, on heparin bridge
   -Increased ISS
   -Clears, tolerating well
   -Called to patient, difficulty breathing, using abdomen, O2 sat 92% on
   4L NC, started BiPAP, no crackles on exam, diffuse wheeze, ABG shows
   PaO2 in 41
   - Discontinued heparin, decreased dose of coumadin to 3 mg daily
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2178-8-19**] 04:40 PM
   Meropenem - [**2178-8-21**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-21**] 05:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 106 (73 - 117) bpm
   BP: 116/57(74) {98/48(65) - 139/62(84)} mmHg
   RR: 19 (10 - 29) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 112.8 kg (admission): 101.2 kg
   Height: 74 Inch
    CVP: 12 (6 - 17)mmHg
   Total In:
                                                                  1,536 mL
                                                                    950 mL
   PO:
                                                                    400 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,136 mL
                                                                    850 mL
   Blood products:
   Total out:
                                                                  2,920 mL
                                                                  1,430 mL
   Urine:
                                                                  2,920 mL
                                                                  1,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,384 mL
                                                                   -480 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 481 (481 - 961) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: 7.41/47/86/26/3
   Ve: 9 L/min
   PaO2 / FiO2: 172
   Physical Examination
   Cardiovascular: exam
   Labs / Radiology
   235 K/uL
   9.3 g/dL
   154 mg/dL
   1.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   59 mg/dL
   100 mEq/L
   138 mEq/L
   29.0 %
   15.5 K/uL
        [image002.jpg]
                             [**2178-8-20**]  01:32 AM
                             [**2178-8-20**]  05:48 AM
                             [**2178-8-20**]  10:49 AM
                             [**2178-8-20**]  04:24 PM
                             [**2178-8-20**]  05:50 PM
                             [**2178-8-20**]  11:22 PM
                             [**2178-8-21**]  01:58 AM
                             [**2178-8-21**]  04:21 AM
                             [**2178-8-21**]  10:14 AM
                             [**2178-8-21**]  04:54 PM
   WBC
   12.3
   15.5
   Hct
   28.9
   29.0
   Plt
   222
   235
   Cr
   1.5
   1.5
   1.5
   1.6
   TropT
   0.10
   TCO2
   27
   30
   28
   30
   29
   31
   Glucose
   200
   100
   113
   154
   Other labs: PT / PTT / INR:33.0/150.0/3.3, CK / CKMB /
   Troponin-T:51/3/0.10, ALT / AST:23/31, Alk Phos / T Bili:65/0.8,
   Differential-Neuts:87.3 %, Lymph:7.1 %, Mono:4.8 %, Eos:0.7 %,
   Fibrinogen:318 mg/dL, Lactic Acid:1.9 mmol/L, LDH:205 IU/L, Ca++:8.6
   mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 COAGULOPATHY
 .H/O PULMONARY EDEMA
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DIABETES MELLITUS (DM), TYPE I
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SIRS
 URINARY TRACT INFECTION (UTI)
   67M with complicated PMHx including vascular and cardiac surgeries,
   mechanical valve replacement, CHF, admitted with pseudomonas UTI,
   respiratory distress likely secondary to CHF requiring intermittent
   BiPAP, levophed and diureses
   .
   # systolic CHF - Prior echo EF 25-30% . Repeat echo estimated EF at
   20%. Cardiology consulted and recommend levophed and diuresis until
   creatinine bumps and then resume home lasix. Think this is likely
   mostly distributive, with some component of cardiogenic hypotension.
   They do not recommend ionotrope at this point. Also, they think echo is
   related to demand changes and fluid overload. This is likely
   contributing to pulmonary edema resulting in hypoxic respiratory
   distress. Diuresis has improved his respiratory status to date. Still
   up 1L of fluid for the day. Had acute episode of hypoxemia which
   responded to BiPAP. No TEE at this point.
   -Continue to diurese (furosemide, chlorothiazide) today until Cr bumps
   further, then restart home lasix dose
   -If tolerates consider PO metolazone to boost diuresis
   -Continue norepinephrine as needed to keep MAPs > 60 and UOP at
   100ml/hr, wean as tolerated
   -BiPAP as needed, ABGs as needed for respiratory distress
   -Appreciate cardiology recs
   .
   # Hypoxic respiratory distress - accompanied by increased work of
   breathing. Likely secondary to overall volume status. Treat systolic
   CHF.
   -Per above
   .
   # Hypotension - requiring pressor support. Cardiogenic vs distributive.
   Decreased EF. Febrile. WBC increasing. Dapto was d/c'ed. UTI only
   infectious source at this time.
   -Per above
   -Continue meropenem (day [**3-7**]) as treatment for UTI
   -F/u culture data - add abx as appropriate
   -Trend WBC, clinical status
   -Pan-culture if spikes, tylenol
   -Stool for c.diff.
   -TSH, random cortisol
   .
   # UTI - WBC trending up. Febrile again. UTI infection. ID following
   -Per above
   -Appreciate ID recs
   .
   # Mechanical MV - INR goal range 2.5 - 3.5. Currently at goal. INR
   remained elevated throughout stay. D/C'ed heparin drip
   -Continue coumadin, decreased dose today to 3
   -Follow daily INR
   .
   # ARF - Cr 1.5 on admission. To 1.6 today. Aggressive diuresis. Will
   slow diuresis once Cr increases.
   -PM lytes, BUN/Cr
   -UOP goal > 100
   .
   # DM type 2 - Altered insulin sliding scale yesterday.
   -Mostly appropriate levels. Continue to monitor.
   -ISS
   .
   # Dyslipidemia - continue statin
   .
   # FEN - currently on clears
   -advance to diabetic/cardiac diet as respiratory status improves
   -replete lytes PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-17**] 12:35 PM
   Arterial Line - [**2178-8-17**] 01:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-08-22 07:50:00 Physician Resident Progress Note
Chief Complaint: The patient is a 67y/o M with a PMH of DM type 2, [**Hospital 10097**] mechanical AVR ([**2168**]), Ascending aorta repair with graft ([**2168**]),
   hx of VF arrest s/p AICD [**2175**], recurrent high grade CoNS and VRE BSI
   s/p removal of leads now presenting with suprapubic pain and fever
   24 Hour Events:
 EKG - At [**2178-8-21**] 12:00 PM
 NON-INVASIVE VENTILATION - START [**2178-8-21**] 01:30 PM
 NON-INVASIVE VENTILATION - STOP [**2178-8-21**] 02:02 PM
 BLOOD CULTURED - At [**2178-8-21**] 04:28 PM
   cvl
 BLOOD CULTURED - At [**2178-8-21**] 04:28 PM
   aline
 URINE CULTURE - At [**2178-8-21**] 05:00 PM
 BLOOD CULTURED - At [**2178-8-22**] 04:48 AM
   A line and CVL
 FEVER - 101.1
F - [**2178-8-21**] 04:00 PM
   Flashed again, on lasix drip after falling behind on fluid out. Got
   diuril x1, with goal to keep him -1L at all times.
   Random Cortisol 28.4 - no adrenal insufficiency
   C.diff, sputum Cx sent
   Leukocytosis, febrile, restarted daptomycin.
   Coumadin changed to 2mg from 3.
   Check abg at 10pm.
   If worse, or hypotensive again, or sig worse Cr, strongly consider
   intubation.
   Check I/O at midnigt, get ABG at 10.
   MAPs in 50s, started on levophed at 9pm. Got IV Morphine for shoulder
   pain, keppra/ ranitidine IV since no P.O on BIPAP.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2178-8-22**] 12:56 AM
   Meropenem - [**2178-8-22**] 06:15 AM
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2178-8-21**] 09:41 PM
   Morphine Sulfate - [**2178-8-22**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-22**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.6
C (97.8
   HR: 117 (73 - 117) bpm
   BP: 117/60(76) {91/45(59) - 162/67(92)} mmHg
   RR: 24 (11 - 29) insp/min
   SpO2: 92%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 112.8 kg (admission): 101.2 kg
   Height: 74 Inch
    CVP: 9 (4 - 16)mmHg
   Total In:
                                                                  1,266 mL
                                                                    351 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  1,166 mL
                                                                    351 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                  2,050 mL
   Urine:
                                                                  2,650 mL
                                                                  2,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,384 mL
                                                                 -1,699 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 783 (481 - 881) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 92%
   ABG: 7.47/48/50/26/9
   Ve: 10.5 L/min
   PaO2 / FiO2: 100
   Physical Examination
   Cardiovascular: CV: RRR, nl S1/S2, mechanical valve, soft systolic
   murmur at apex
   Resp: CTAB, no WRR
   Abd: soft, NT/ND, NABS
   Ext: L BKA, R lateral ulcer with wound vac in place, + warmth, no
   surrounding erythema
   Labs / Radiology
   219 K/uL
   9.4 g/dL
   89 mg/dL
   1.4 mg/dL
   26 mEq/L
   4.1 mEq/L
   63 mg/dL
   99 mEq/L
   140 mEq/L
   28.5 %
   12.1 K/uL
        [image002.jpg]
                             [**2178-8-21**]  04:21 AM
                             [**2178-8-21**]  10:14 AM
                             [**2178-8-21**]  04:15 PM
                             [**2178-8-21**]  04:54 PM
                             [**2178-8-21**]  10:28 PM
                             [**2178-8-21**]  10:54 PM
                             [**2178-8-21**]  11:51 PM
                             [**2178-8-22**]  03:51 AM
                             [**2178-8-22**]  04:27 AM
                             [**2178-8-22**]  06:37 AM
   WBC
   15.5
   12.1
   Hct
   29.0
   28.5
   Plt
   235
   219
   Cr
   1.6
   1.5
   1.5
   1.4
   TCO2
   29
   31
   17
   32
   36
   36
   Glucose
   154
   126
   90
   89
   Other labs: PT / PTT / INR:48.3/77.5/5.3, CK / CKMB /
   Troponin-T:41/3/0.10, ALT / AST:20/50, Alk Phos / T Bili:59/0.7,
   Differential-Neuts:85.6 %, Lymph:9.1 %, Mono:3.9 %, Eos:1.1 %,
   Fibrinogen:318 mg/dL, Lactic Acid:1.4 mmol/L, LDH:205 IU/L, Ca++:8.7
   mg/dL, Mg++:2.4 mg/dL, PO4:3.7 mg/dL
   Imaging: Maybe slight improvement in lung fields, bilateral
   atelectasis, scattered opacifications persist, no infiltrate concerning
   for new PNA.
   Microbiology: Blood cultures from 24, 26, 28 and 29th pending.
   Urine Cx from 24th had grown Psudomonas for which he is being covered,
   repeat UCx from 28th pending.
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 COAGULOPATHY
 .H/O PULMONARY EDEMA
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DIABETES MELLITUS (DM), TYPE I
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SIRS
 URINARY TRACT INFECTION (UTI)
   Assessment and Plan
   67M with complicated PMHx including vascular and cardiac surgeries,
   mechanical valve replacement, CHF, admitted with pseudomonas UTI,
   respiratory distress likely secondary to CHF requiring intermittent
   BiPAP, levophed and diureses
   .
   # systolic CHF - Prior echo EF 25-30% . Repeat echo estimated EF at
   20%. Cardiology consulted and recommend levophed and diuresis until
   creatinine bumps and then resume home lasix. Think this is likely
   mostly distributive, with some component of cardiogenic hypotension.
   They do not recommend ionotrope at this point. Also, they think echo is
   related to demand changes and fluid overload. This is likely
   contributing to pulmonary edema resulting in hypoxic respiratory
   distress. Diuresis has improved his respiratory status to date. Still
   up 1L of fluid for the day. Had acute episode of hypoxemia which
   responded to BiPAP. No TEE at this point.
   -Continue to diurese (furosemide, chlorothiazide) today until Cr bumps
   further, then restart home lasix dose
   -If tolerates consider PO metolazone to boost diuresis
   -Continue norepinephrine as needed to keep MAPs > 60 and UOP at
   100ml/hr, wean as tolerated
   -BiPAP as needed, ABGs as needed for respiratory distress
   -Appreciate cardiology recs
   .
   # Hypoxic respiratory distress - accompanied by increased work of
   breathing. Likely secondary to overall volume status. Treat systolic
   CHF.
   -Per above
   .
   # Hypotension - requiring pressor support. Cardiogenic vs distributive.
   Decreased EF. Febrile. WBC increasing. Dapto was d/c'ed. UTI only
   infectious source at this time.
   -Per above
   -Continue meropenem (day [**3-7**]) as treatment for UTI
   -F/u culture data - add abx as appropriate
   -Trend WBC, clinical status
   -Pan-culture if spikes, tylenol
   -Stool for c.diff.
   -TSH, random cortisol
   .
   # UTI - WBC trending up. Febrile again. UTI infection. ID following
   -Per above
   -Appreciate ID recs
   .
   # Mechanical MV - INR goal range 2.5 - 3.5. Currently at goal. INR
   remained elevated throughout stay. D/C'ed heparin drip
   -Continue coumadin, decreased dose today to 3
   -Follow daily INR
   .
   # ARF - Cr 1.5 on admission. To 1.6 today. Aggressive diuresis. Will
   slow diuresis once Cr increases.
   -PM lytes, BUN/Cr
   -UOP goal > 100
   .
   # DM type 2 - Altered insulin sliding scale yesterday.
   -Mostly appropriate levels. Continue to monitor.
   -ISS
   .
   # Dyslipidemia - continue statin
   .
   # FEN - currently on clears
   -advance to diabetic/cardiac diet as respiratory status improves
   -replete lytes PRN
   ICU Care
   Nutrition:
   Comments: clears
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2178-8-17**] 12:35 PM
   Arterial Line - [**2178-8-17**] 01:45 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Comments: Clears
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2178-8-17**] 12:35 PM
   Arterial Line - [**2178-8-17**] 01:45 PM
   Prophylaxis:
   DVT: (Coumadin (holding INR 5.3))
   Stress ulcer: famotidine while no p.o
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:In ICU for now.

2178-08-22 10:07:00 Physician Attending Progress Note
Chief Complaint: respiratory failure due to CHF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67y/o M with a PMH of DM type 2, [**Hospital3 5393**] mechanical AVR ([**2168**]),
   Ascending aorta repair with graft ([**2168**]), hx of VF arrest s/p AICD
   [**2175**], recurrent high grade CoNS and VRE BSI s/p removal of leads,
   admitted with concern for urosepsis.  Has had recurrent flashes of
   pulmonary edema requiring lasix drip and has been on and off bipap.
   Gets HOTN with diuresis.
   24 Hour Events:
 EKG - At [**2178-8-21**] 12:00 PM
 NON-INVASIVE VENTILATION - START [**2178-8-21**] 01:30 PM
 NON-INVASIVE VENTILATION - STOP [**2178-8-21**] 02:02 PM
 BLOOD CULTURED - At [**2178-8-21**] 04:28 PM
   cvl
 BLOOD CULTURED - At [**2178-8-21**] 04:28 PM
   aline
 URINE CULTURE - At [**2178-8-21**] 05:00 PM
 BLOOD CULTURED - At [**2178-8-22**] 04:48 AM
   A line and CVL
 FEVER - 101.1
F - [**2178-8-21**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2178-8-22**] 12:56 AM
   Meropenem - [**2178-8-22**] 06:15 AM
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2178-8-21**] 09:41 PM
   Morphine Sulfate - [**2178-8-22**] 06:00 AM
   Other medications:
   amiodarone
   gabapentin
   atrovent
   NTG
   ASA
   levophed off
   levalbuterol
   SSI/NPH
   colace
   Keppra
   lasix drip
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-22**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.2
C (97.1
   HR: 107 (95 - 117) bpm
   BP: 123/64(81) {91/45(59) - 162/67(92)} mmHg
   RR: 13 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 108 kg (admission): 101.2 kg
   Height: 74 Inch
   CVP: 11 (4 - 16)mmHg
   Total In:
                                                                  1,266 mL
                                                                    383 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  1,166 mL
                                                                    383 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                  2,710 mL
   Urine:
                                                                  2,650 mL
                                                                  2,710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,384 mL
                                                                 -2,327 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (481 - 881) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.48/42/69/26/6
   Ve: 5.3 L/min
   PaO2 / FiO2: 138
   Physical Examination
   General Appearance: mild distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l, Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, left stump
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   219 K/uL
   89 mg/dL
   1.4 mg/dL
   26 mEq/L
   4.1 mEq/L
   63 mg/dL
   99 mEq/L
   140 mEq/L
   28.5 %
   12.1 K/uL
        [image002.jpg]
                             [**2178-8-21**]  10:14 AM
                             [**2178-8-21**]  04:15 PM
                             [**2178-8-21**]  04:54 PM
                             [**2178-8-21**]  10:28 PM
                             [**2178-8-21**]  10:54 PM
                             [**2178-8-21**]  11:51 PM
                             [**2178-8-22**]  03:51 AM
                             [**2178-8-22**]  04:27 AM
                             [**2178-8-22**]  06:37 AM
                             [**2178-8-22**]  07:54 AM
   WBC
   12.1
   Hct
   28.5
   Plt
   219
   Cr
   1.5
   1.5
   1.4
   TCO2
   29
   31
   17
   32
   36
   36
   32
   Glucose
   126
   90
   89
   Other labs: PT / PTT / INR:48.3/77.5/5.3, CK / CKMB /
   Troponin-T:41/3/0.10, ALT / AST:20/50, Alk Phos / T Bili:59/0.7,
   Differential-Neuts:85.6 %, Lymph:9.1 %, Mono:3.9 %, Eos:1.1 %,
   Fibrinogen:318 mg/dL, Lactic Acid:1.3 mmol/L, LDH:205 IU/L, Ca++:8.7
   mg/dL, Mg++:2.4 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 COAGULOPATHY
 .H/O PULMONARY EDEMA
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DIABETES MELLITUS (DM), TYPE I
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SIRS
 URINARY TRACT INFECTION (UTI)
   Respiratory distress/recurrent pulmonary edema:  not tolerating being
   off bipap for a pronlonged period of time.   Having skin breakdown and
   infiltrates not improving
   likely due to poor sputum clearns and continued acute systolic heart
   failure:  Will watch off bipap.  if worsens, will intubate him.
   Acute on chronic systolic HF:  Continue diuresis.
   recurrent fevers:  Unclear source.  Can stop daptomycin.  Continue [**Last Name (un) 430**]
   and check sputum cx and CT torso once intubated to look for abscess.
   On meropenem for UTI
   HOTN:  intermitted, occasionally requiring pressor support.  No clear
   evidence of sepsis.  Likely more due to fluid shifts
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-17**] 12:35 PM
   Arterial Line - [**2178-8-17**] 01:45 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Patient with worsening hypoxemia off bipap.  Feels uncomfortable,
   asking to be intubated.  Will proceed with intubation.
   Having thick purulent sputum from ETT post intubation, so will cover
   for HAP empirically.
   CC 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 2513**] [**Name8 (MD) 593**], MD
   on:[**2178-8-22**] 12:16 ------

2178-08-23 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2178-8-22**] 10:35 AM
 INVASIVE VENTILATION - START [**2178-8-22**] 10:35 AM
 SPUTUM CULTURE - At [**2178-8-22**] 10:45 AM
   -Continued diuresis yesterday.
   -Continued to have significant respiratory distress yesterday morning,
   with desaturations off BiPAP.  Intubated for hypoxic failure.
   -Vascular consult obtained to evaluate R foot wound - not thought to be
   infected, but X-ray to rule out osteo, which was negative.
   -hypotensive after intubation, started on Levophed, with varying
   requirements.
   -CT torso obtained which raised concern for ARDS, possible pneumonia.
   Vancomycin started for concern for HAP, in the setting of continued
   diuresis with no improvement, fever, cough.
   -PT remains supratherapeutic, trended over the course of the day.  No
   signs of bleeding, decided not to reverse but to follow closely, plan
   to reverse with signs of bleeding or acute rise.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2178-8-22**] 12:56 AM
   Vancomycin - [**2178-8-22**] 10:28 PM
   Meropenem - [**2178-8-23**] 12:11 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 10 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2178-8-22**] 10:30 AM
   Fentanyl - [**2178-8-22**] 10:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-23**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.5
C (99.5
   HR: 85 (69 - 130) bpm
   BP: 142/62(86) {76/38(51) - 146/74(96)} mmHg
   RR: 16 (13 - 28) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 108 kg (admission): 101.2 kg
   Height: 74 Inch
    CVP: 5 (3 - 330)mmHg
   Total In:
                                                                  1,887 mL
                                                                    239 mL
   PO:
   TF:
   IVF:
                                                                    987 mL
                                                                    239 mL
   Blood products:
   Total out:
                                                                  4,100 mL
                                                                    960 mL
   Urine:
                                                                  3,920 mL
                                                                    960 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,213 mL
                                                                   -721 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 681 (550 - 783) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.45/54/94.[**Numeric Identifier 128**]/34/11
   Ve: 8.2 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Intubated, sedated, responsive.
   Coarse rales bilaterally, decreased breath sounds
   RRR, no audible murmurs, prominent mechanical S2
   Abdomen obese, soft, non-tender, positive BS
   Trace pedal edema, R foot wound vac in place
   Labs / Radiology
   341 K/uL
   9.6 g/dL
   156 mg/dL
   1.4 mg/dL
   34 mEq/L
   3.7 mEq/L
   64 mg/dL
   98 mEq/L
   143 mEq/L
   29.7 %
   11.4 K/uL
        [image002.jpg]
                             [**2178-8-22**]  06:37 AM
                             [**2178-8-22**]  07:54 AM
                             [**2178-8-22**]  11:02 AM
                             [**2178-8-22**]  12:38 PM
                             [**2178-8-22**]  05:21 PM
                             [**2178-8-22**]  05:32 PM
                             [**2178-8-22**]  09:48 PM
                             [**2178-8-22**]  11:27 PM
                             [**2178-8-23**]  04:01 AM
                             [**2178-8-23**]  04:18 AM
   WBC
   11.4
   Hct
   29.7
   Plt
   341
   Cr
   1.5
   1.5
   1.4
   TCO2
   36
   32
   34
   35
   35
   34
   39
   Glucose
   200
   218
   156
   Other labs: PT / PTT / INR:60.5/91.9/6.9, CK / CKMB /
   Troponin-T:41/3/0.10, ALT / AST:20/50, Alk Phos / T Bili:59/0.7,
   Differential-Neuts:85.6 %, Lymph:9.1 %, Mono:3.9 %, Eos:1.1 %,
   Fibrinogen:318 mg/dL, Lactic Acid:1.4 mmol/L, LDH:205 IU/L, Ca++:8.8
   mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 COAGULOPATHY
 .H/O PULMONARY EDEMA
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DIABETES MELLITUS (DM), TYPE I
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SIRS
 URINARY TRACT INFECTION (UTI)
   67M with complicated PMHx including vascular and cardiac surgeries,
   mechanical valve replacement, CHF, admitted with pseudomonas UTI,
   respiratory distress.  Likely secondary to CHF - requiring intermittent
   BiPAP despite diuresis, now intubated ([**8-22**]) for hypoxic respiratory
   failure.
   Respiratory Failure
 persistent hypoxia when taken off BiPAP, despite
   diuresis.  Etiology initially thought to be cardiogenic from
   decompensated heart failure.  However, he has been spiking fevers with
   increased cough, and an infectious component is also possible.
   -initial ABG 7.42/50/98, stable over the course of the day.  Noted to
   be dysynchronous with vent at 20:45, switched to PS [**10-1**], with
   subjective improvement, gases stable..
   -CT torso on [**8-22**] showed ground glass opacity with consolidation,
   suggestive of infection, edema, or ARDS.
   -continue Lasix drip, change Diuril to PO.
   -after discussion on morning rounds, CT findings thought more likely to
   represent edema.  Vancomycin was started yesterday, but will DC today.
   .
   Intermittent Fevers:  Covered with meropenem for known UTI, day 6.
   Daptomycin discontinued per ID recs.  Now with recent fevers there is
   concern for worsening or new infection.  CT showed no evidence for
   abdominal/pelvic source.  Vanco started yesterday, as above, now
   discontinued.
   -C. diff negative.
   - CT showed no evidence of abdominal source.
   -vascular consulted to assess right foot ulcer, s/p debridement by
   vascular service on [**2178-6-29**], still with wound vac.  X-ray obtained with
   no evidence for osteo
 assessment that wound not acutely infected.
   - will consult wound care for continued Q3 day wound vac changes and
   wound monitoring.
   .
   # systolic CHF
 previously known failure, now worsened in acute
   decompensation.
   -continue diuresis, monitor hemodynamics.
   -currently on Levophed for BP support, UOP.
   .
   # Hypotension
 requiring pressor support again after intubation.
   -F/u culture data - add abx as appropriate
   -Trend WBC, clinical status.
   -Pan-culture if spikes, tylenol.
   .
   # UTI -  treating with meropenem
   -Per above
   -Appreciate ID recs
   .
   # Mechanical MV - INR goal range 2.5 - 3.5. Coumadin given 2 days ago,
   now INR supratherapeutic.  Re-checked level Q6, remained elevated, but
   with no signs of bleeding.
   -Hold coumadin for now.
   -Follow INR Q12 today to ensure not continuing to rise.
   -watch closely for signs of bleeding.
   -PTT also noted to be elevated
 will check LFT
s and DIC panel.
   .
   # ARF - Cr elevated but stable.  Will continue to follow closely with
   multiple possible causes for renal failure
 diuresis, poor perfusion,
   hypotension, UTI.
   .
   # DM type 2 -
   -Mostly appropriate levels. Continue to monitor.
   -ISS
   .
   # Dyslipidemia - continue statin
   .
   # FEN
 Now on ventilator with NG tube.  Will get nutrition consult.
   Low residuals, but no BM for several days.  Currently on bowel regimen,
   will add lactulose.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-17**] 12:35 PM
   Arterial Line - [**2178-8-17**] 01:45 PM
   Prophylaxis:
   DVT:  INR elevated, as above
   Stress ulcer: PPI
   VAP:  HOB elevation
   Comments:
   Communication:  Comments:  with patient and wife
   [**Name (NI) 66**] status: Full code
   Disposition:  ICU

2178-08-23 11:06:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 yo man with severe systolic HF, respiratory failure.  Intubated
   yesterday.  Has been on/off
   low dose levophed.  Trying to diurese aggressively.
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2178-8-22**] 10:35 AM
 INVASIVE VENTILATION - START [**2178-8-22**] 10:35 AM
 SPUTUM CULTURE - At [**2178-8-22**] 10:45 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2178-8-22**] 12:56 AM
   Meropenem - [**2178-8-23**] 06:20 AM
   Vancomycin - [**2178-8-23**] 07:30 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Other medications:
   levalbuterol
   lantis/SSI
   diuril
   chlorhex
   atrovent
   zantac
   neurontin
   lipitor 40mg
   amiodarone
   asa
   colace
   keppra
   senna
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-23**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.5
C (99.5
   HR: 77 (69 - 125) bpm
   BP: 116/53(71) {76/38(51) - 146/74(96)} mmHg
   RR: 13 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 108 kg (admission): 101.2 kg
   Height: 74 Inch
   CVP: 10 (3 - 13)mmHg
   Total In:
                                                                  1,888 mL
                                                                    771 mL
   PO:
   TF:
   IVF:
                                                                    988 mL
                                                                    671 mL
   Blood products:
   Total out:
                                                                  4,100 mL
                                                                  2,040 mL
   Urine:
                                                                  3,920 mL
                                                                  2,040 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,212 mL
                                                                 -1,269 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 594 (594 - 681) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.42/52/122/34/8
   Ve: 7.3 L/min
   PaO2 / FiO2: 244
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l)
   Abdominal: Soft
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   341 K/uL
   156 mg/dL
   1.4 mg/dL
   34 mEq/L
   3.7 mEq/L
   64 mg/dL
   98 mEq/L
   143 mEq/L
   29.7 %
   11.4 K/uL
        [image002.jpg]
                             [**2178-8-22**]  07:54 AM
                             [**2178-8-22**]  11:02 AM
                             [**2178-8-22**]  12:38 PM
                             [**2178-8-22**]  05:21 PM
                             [**2178-8-22**]  05:32 PM
                             [**2178-8-22**]  09:48 PM
                             [**2178-8-22**]  11:27 PM
                             [**2178-8-23**]  04:01 AM
                             [**2178-8-23**]  04:18 AM
                             [**2178-8-23**]  08:47 AM
   WBC
   11.4
   Hct
   29.7
   Plt
   341
   Cr
   1.5
   1.5
   1.4
   TCO2
   32
   34
   35
   35
   34
   39
   35
   Glucose
   200
   218
   156
   Other labs: PT / PTT / INR:60.5/91.9/6.9, CK / CKMB /
   Troponin-T:41/3/0.10, ALT / AST:20/50, Alk Phos / T Bili:59/0.7,
   Differential-Neuts:85.6 %, Lymph:9.1 %, Mono:3.9 %, Eos:1.1 %,
   Fibrinogen:318 mg/dL, Lactic Acid:1.4 mmol/L, LDH:205 IU/L, Ca++:8.8
   mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 COAGULOPATHY
 .H/O PULMONARY EDEMA
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DIABETES MELLITUS (DM), TYPE I
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SIRS
 URINARY TRACT INFECTION (UTI)
   Respiratory failure:  CT with thickened intralobular septa, b/l
   effusions.  He is relatively easy to oxygenate so think this is mostly
   pulmonary edema.  Continue to wean
   FiO2 and PEEP.
   PNA:  CT being more c/w CHF, and gram stain for sputum negative.  Will
   stop vanco
   Acute on chronic sytolic HF:  continue lasix drip, can change diuril to
   PO.
   Fevers:  on meropenem for UTI day [**6-7**].
   Coagulopathy:  Was on coumadin for AVR.  Drifting up with antibiotics
   ICU Care
   Nutrition:
   Comments: Start TFs
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-17**] 12:35 PM
   Arterial Line - [**2178-8-17**] 01:45 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2178-08-24 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Continues on lasix drip
   - d/c'ed vancomycin yesterday
   - started on tube feeds, nutrition consulted
   - BM x1 yesterday
   - INR continued to rise, 8's, gave 2mg Vit K po per ACP protocol
   - Bicarb elevated, so started diamox yesterday
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2178-8-22**] 12:56 AM
   Vancomycin - [**2178-8-23**] 07:30 AM
   Meropenem - [**2178-8-24**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-24**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.7
   HR: 86 (71 - 98) bpm
   BP: 110/53(70) {92/47(61) - 124/58(77)} mmHg
   RR: 15 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 108 kg (admission): 101.2 kg
   Height: 74 Inch
    CVP: 6 (3 - 13)mmHg
   Total In:
                                                                  1,500 mL
                                                                    624 mL
   PO:
   TF:
                                                                    151 mL
                                                                    220 mL
   IVF:
                                                                  1,158 mL
                                                                    404 mL
   Blood products:
   Total out:
                                                                  3,570 mL
                                                                    420 mL
   Urine:
                                                                  3,570 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,070 mL
                                                                    204 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 444 (444 - 945) mL
   PS : 8 cmH2O
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.44/57/121/36/12
   Ve: 8.2 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   253 K/uL
   9.0 g/dL
   125 mg/dL
   1.6 mg/dL
   36 mEq/L
   3.8 mEq/L
   74 mg/dL
   97 mEq/L
   142 mEq/L
   28.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2178-8-22**]  09:48 PM
                             [**2178-8-22**]  11:27 PM
                             [**2178-8-23**]  04:01 AM
                             [**2178-8-23**]  04:18 AM
                             [**2178-8-23**]  08:47 AM
                             [**2178-8-23**]  02:14 PM
                             [**2178-8-23**]  03:32 PM
                             [**2178-8-23**]  03:39 PM
                             [**2178-8-24**]  03:40 AM
                             [**2178-8-24**]  04:05 AM
   WBC
   11.4
   8.9
   7.8
   Hct
   29.7
   28.0
   28.1
   Plt
   [**Telephone/Fax (3) 10117**]
   Cr
   1.5
   1.4
   1.4
   1.6
   TCO2
   34
   39
   35
   40
   40
   40
   Glucose
   [**Telephone/Fax (3) 10118**]25
   Other labs: PT / PTT / INR:35.1/74.2/3.6, CK / CKMB /
   Troponin-T:41/3/0.10, ALT / AST:28/69, Alk Phos / T Bili:68/0.7,
   Differential-Neuts:85.6 %, Lymph:9.1 %, Mono:3.9 %, Eos:1.1 %,
   Fibrinogen:736 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:398
   IU/L, Ca++:8.7 mg/dL, Mg++:2.7 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: pH 7.44
   pCO2 57
   pO2 121
   HCO3 40
   BaseXS 12
   Type:Art; Temp:37.7
   freeCa:1.12
   Lactate:1.5
   Imaging: CXR  ([**2178-8-24**])
   The ET tube tip is 4.5 cm above the carina. The right internal jugular
   line
   tip is at the level of mid low SVC. The NG tube tip passes below the
   diaphragm not included in the field of view. The replaced aortic valve
   is in
   unchanged position.
   Cardiomediastinal silhouette is stable. Significant improvement in
   widespread
   parenchymal opacities is consistent with significant improvement of
   pulmonary
   edema with still present remnant at the lung bases. Small bilateral
   pleural
   effusion cannot be excluded and there is no evidence of pneumothorax.
   Microbiology: Legionella urinary antigen Negative
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 COAGULOPATHY
 .H/O PULMONARY EDEMA
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DIABETES MELLITUS (DM), TYPE I
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SIRS
 URINARY TRACT INFECTION (UTI)
   67M with complicated PMHx including vascular and cardiac surgeries,
   mechanical valve replacement, CHF, admitted with pseudomonas UTI,
   respiratory distress.  Likely secondary to CHF - requiring intermittent
   BiPAP despite diuresis, now intubated ([**8-22**]) for hypoxic respiratory
   failure.
   #Hypoxic Respiratory Failure
 persistent hypoxia when taken off BiPAP,
   despite diuresis.  Etiology initially thought to be cardiogenic from
   decompensated heart failure.   CT torso on [**8-22**] showed ground glass
   opacity with consolidation, suggestive of infection, edema, or ARDS.
   With fevers, but less likely that he has a pneumonia contributing to
   his hypoxia in light of his improved CXR with diuresis.
   -Gases stable, on PS [**8-1**], with subjective improvement; will attempt to
   wean down to 5/5 and potentially try PEEP of zero later in the day
   -continue Lasix drip, with goal of 1L negative; will closely monitor
   UOP throughout the day
   .
   #Intermittent Fevers:  Covered with meropenem for known UTI, day [**7-7**].
   Daptomycin and vancomycin discontinued.  Now with recent fevers there
   is concern for worsening or new infection, but still without clear
   source.  CT showed no evidence for abdominal/pelvic source.  No
   evidence of osteo on Xray and vascular commented that the wound does
   not look acutely infected. s/p debridement on [**2178-6-29**]. Cdiff negative.
   -continue to follow up culture data
   - wound care for continued Q3 day wound vac changes and wound
   monitoring.
   -Has IJ in, but line does not look infected. Could not get PICC in
   light of fevers. Will continue to monitor line site.
   .
   # Systolic CHF
 previously known failure, now worsened in acute
   decompensation.
   -continue diuresis, monitor hemodynamics.  Lasix. Check [**Hospital1 **] lytes;
   expect -1L today.
   -has been off Levophed support x 24 hours. Will continue to monitor for
   need for pressors
   .
   # Hypotension
 requiring pressor support again after intubation.
   -F/u culture data - add abx as appropriate
   -Trend WBC, clinical status.
   -Pan-culture if spikes, tylenol.
   .
   # UTI -  treating with meropenem
   -Per above
   -Appreciate ID recs
   .
   # Mechanical MV - INR goal range 2.5 - 3.5. Coumadin given 3 days ago.
   INR 3.6 today s/p 2mg Vitamin K.  No signs of bleeding.
   -Hold coumadin for now.
   -Follow INR Q12 today to ensure not continuing to rise.
   -watch closely for signs of bleeding.
   -PTT also noted to be elevated, DIC labs drawn
 fibrinogen and FDP
   both elevated; LFT's stable.
   .
   # ARF - Cr elevated but stable.  Will continue to follow closely with
   multiple possible causes for renal failure
 diuresis, poor perfusion,
   hypotension, UTI. Will continue lasix unless Cr bumps.
   .
   # DM type 2 -
   -Mostly appropriate levels. Continue to monitor.
   -ISS
   .
   # Dyslipidemia - continue statin
   .
   # FEN
 Now on ventilator with NG tube.  started on tube feeds.  Had
   BMx1.  Continue bowel regimen.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2178-8-24**] 05:19 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-17**] 12:35 PM
   Arterial Line - [**2178-8-17**] 01:45 PM
   Prophylaxis:
   DVT:  Anticoagulation
   Stress ulcer:  PPI
   VAP:  chlorohexidane
   Comments:
   Communication: Wife  Comments:
   [**Name2 (NI) 66**] status: Full code
   Disposition:

2178-08-24 11:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues on Lasix drip. 2L overnight
   24 Hour Events:
 STOOL CULTURE - At [**2178-8-23**] 12:00 PM
   c-diff
 BLOOD CULTURED - At [**2178-8-23**] 10:18 PM
 URINE CULTURE - At [**2178-8-23**] 10:18 PM
   History obtained from icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2178-8-22**] 12:56 AM
   Vancomycin - [**2178-8-23**] 07:30 AM
   Meropenem - [**2178-8-24**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2178-8-24**] 08:45 AM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2178-8-24**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.7
C (99.9
   HR: 75 (75 - 98) bpm
   BP: 97/47(62) {92/47(61) - 117/58(77)} mmHg
   RR: 14 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 108.5 kg (admission): 101.2 kg
   Height: 74 Inch
   CVP: 6 (3 - 13)mmHg
   Total In:
                                                                  1,500 mL
                                                                    962 mL
   PO:
   TF:
                                                                    151 mL
                                                                    345 mL
   IVF:
                                                                  1,158 mL
                                                                    487 mL
   Blood products:
   Total out:
                                                                  3,570 mL
                                                                    705 mL
   Urine:
                                                                  3,570 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,070 mL
                                                                    257 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 532 (444 - 945) mL
   PS : 8 cmH2O
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.44/57/121/36/12
   Ve: 8.7 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   mechanical valve sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Wound vac on LE
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   253 K/uL
   125 mg/dL
   1.6 mg/dL
   36 mEq/L
   3.8 mEq/L
   74 mg/dL
   97 mEq/L
   142 mEq/L
   28.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2178-8-22**]  09:48 PM
                             [**2178-8-22**]  11:27 PM
                             [**2178-8-23**]  04:01 AM
                             [**2178-8-23**]  04:18 AM
                             [**2178-8-23**]  08:47 AM
                             [**2178-8-23**]  02:14 PM
                             [**2178-8-23**]  03:32 PM
                             [**2178-8-23**]  03:39 PM
                             [**2178-8-24**]  03:40 AM
                             [**2178-8-24**]  04:05 AM
   WBC
   11.4
   8.9
   7.8
   Hct
   29.7
   28.0
   28.1
   Plt
   [**Telephone/Fax (3) 10117**]
   Cr
   1.5
   1.4
   1.4
   1.6
   TCO2
   34
   39
   35
   40
   40
   40
   Glucose
   [**Telephone/Fax (3) 10118**]25
   Other labs: PT / PTT / INR:35.1/74.2/3.6, CK / CKMB /
   Troponin-T:41/3/0.10, ALT / AST:28/69, Alk Phos / T Bili:68/0.7,
   Differential-Neuts:85.6 %, Lymph:9.1 %, Mono:3.9 %, Eos:1.1 %,
   Fibrinogen:736 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:398
   IU/L, Ca++:8.7 mg/dL, Mg++:2.7 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR: significant improvement of bilateral infiltraes compared
   to yesterday
   Assessment and Plan
   67 yo man with CHF post volume resuscitation for urosepsis.
   Hypercarbic/Hypoxemic Respiratory Failure: Has been getting volume off
   with improvment in CXR.  We have decreased his settings to PSV 5/5 on
   rounds --> will need to see how tolerates lower PEEP.  Aim for 1L
   negative.
   Fevers: On meropenem for pseudomonas UTI - Day [**7-7**].
   CHF: diuresis as above
   Anticoagulation: Holding coumadin today
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2178-8-24**] 10:09 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-17**] 12:35 PM
   Arterial Line - [**2178-8-17**] 01:45 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35
   Patient is critically ill

2178-08-25 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2178-8-25**] 06:42 AM
   -goal tbb -1liter. lasix drip at 20. given acetozolamide and diuril.
   currently even.
   - d/c'ed percocet, ativan, increased midazolam gtt.
   -For wound vac change this AM
   -still spiking fevers to 101 on [**Last Name (un) 430**] x 7d, unable to speak with
   vascular regarding possibility of osteomyelitis
   -weaned vent down to 5/5
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-23**] 07:30 AM
   Meropenem - [**2178-8-25**] 06:11 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2178-8-24**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-25**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100
   HR: 76 (72 - 90) bpm
   BP: 111/52(69) {92/43(60) - 122/59(78)} mmHg
   RR: 0 (0 - 19) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 108.5 kg (admission): 101.2 kg
   Height: 74 Inch
    CVP: 6 (2 - 11)mmHg
   Total In:
                                                                  2,552 mL
                                                                    426 mL
   PO:
   TF:
                                                                    865 mL
                                                                     52 mL
   IVF:
                                                                  1,297 mL
                                                                    374 mL
   Blood products:
   Total out:
                                                                  2,375 mL
                                                                  1,440 mL
   Urine:
                                                                  2,375 mL
                                                                  1,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    177 mL
                                                                 -1,014 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (495 - 588) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.46/52/143/35/11
   Ve: 7.5 L/min
   PaO2 / FiO2: 358
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: II/VI SEM, mechanical heart sound
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), +wound vac on R LE
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   255 K/uL
   9.0 g/dL
   153 mg/dL
   1.4 mg/dL
   35 mEq/L
   3.8 mEq/L
   76 mg/dL
   99 mEq/L
   145 mEq/L
   29.2 %
   6.4 K/uL
        [image002.jpg]
                             [**2178-8-23**]  08:47 AM
                             [**2178-8-23**]  02:14 PM
                             [**2178-8-23**]  03:32 PM
                             [**2178-8-23**]  03:39 PM
                             [**2178-8-24**]  03:40 AM
                             [**2178-8-24**]  04:05 AM
                             [**2178-8-24**]  12:09 PM
                             [**2178-8-24**]  02:54 PM
                             [**2178-8-25**]  03:40 AM
                             [**2178-8-25**]  03:57 AM
   WBC
   8.9
   7.8
   6.4
   Hct
   28.0
   28.1
   29.2
   Plt
   272
   253
   255
   Cr
   1.4
   1.6
   1.5
   1.4
   TCO2
   35
   40
   40
   40
   39
   38
   Glucose
   156
   125
   168
   153
   Other labs: PT / PTT / INR:18.1/42.0/1.6, CK / CKMB /
   Troponin-T:41/3/0.10, ALT / AST:28/69, Alk Phos / T Bili:68/0.7,
   Differential-Neuts:85.6 %, Lymph:9.1 %, Mono:3.9 %, Eos:1.1 %,
   Fibrinogen:736 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:398
   IU/L, Ca++:8.5 mg/dL, Mg++:3.0 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: ABG:
   pH 7.46
   pCO2 52
   pO2 143
   HCO3 38
   Imaging: CXR: ([**2178-8-25**])- IJ terminates at mid SVC; infiltrates unchanged
   from yesterday
   Microbiology: [**2178-8-25**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2178-8-23**]  URINE Legionella Urinary Antigen -FINAL INPATIENT
   [**2178-8-23**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2178-8-23**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2178-8-23**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2178-8-23**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2178-8-22**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2178-8-22**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2178-8-22**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2178-8-21**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2178-8-21**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2178-8-21**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2178-8-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2178-8-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 COAGULOPATHY
 .H/O PULMONARY EDEMA
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 DIABETES MELLITUS (DM), TYPE I
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SIRS
 URINARY TRACT INFECTION (UTI)
   67M with complicated PMHx including vascular and cardiac surgeries,
   mechanical valve replacement, CHF, admitted with pseudomonas UTI,
   respiratory distress.  Likely secondary to CHF - required intermittent
   BiPAP despite diuresis, now intubated ([**8-22**]) for hypoxic respiratory
   failure.
   #Hypoxic Respiratory Failure
 persistent hypoxia when taken off BiPAP,
   despite diuresis.  Etiology initially thought to be cardiogenic from
   decompensated heart failure.   CT torso on [**8-22**] showed ground glass
   opacity with consolidation, suggestive of infection, edema, or ARDS.
   With fevers, but less likely that he has a pneumonia contributing to
   his hypoxia in light of his improved CXR with diuresis.
   -Gases stable, weaned down to PEEP of zero successfully this AM,
   potentially will extubate today.
   -continue Lasix drip with goal 1L negative at end of the day. Will give
   diuril one hour prior to extubation to prevent flash.  Follow I/O
   closely today, adjust drip as needed and give diuril as needed.
   -hold sedation, plan for extubation later today if remaining stable.
   .
   #Intermittent Fevers:  Covered with meropenem for known UTI, day [**8-7**].
   Daptomycin and vancomycin discontinued.  Now with recent fevers there
   is concern for worsening or new infection, but still without clear
   source.  CT showed no evidence for abdominal/pelvic source.  No
   evidence of osteo on Xray and vascular commented that the wound does
   not look acutely infected. s/p debridement on [**2178-6-29**]. Cdiff negative.
   Still spiking fevers to 101 on [**Last Name (un) 430**] x 7d, had been on dapto for h/o
   coag neg staph earlier in admission but this was d/ced on [**8-19**]. esr
   found to be 122. also concerned for graft or av valve infection.
   -continue to follow up culture data
   - wound care for continued Q3 day wound vac changes and wound
   monitoring.  Vascular debrided wound again this morning, not concerned
   for wound infection.
   -Has IJ in, but line does not look infected. Could not get PICC in
   light of fevers. Will continue to monitor line site.
   -check in with ID, concern for graft infection, possible need for
   long-term antibiotics
   .
   # Systolic CHF
 previously known failure, now worsened in acute
   decompensation.
   -continue diuresis as above, monitor hemodynamics. Check [**Hospital1 **] lytes;
   expect -1L today.
   -Pressors d/c'ed 2 days ago
   .
   # Hypotension
 requiring pressor support again after intubation.
   -F/u culture data - add abx as appropriate
   -Trend WBC, clinical status.
   -Pan-culture if spikes, tylenol.
   # UTI -  treating with meropenem
   -Per above
   -Appreciate ID recs
   # Mechanical aortic  valve - INR goal range 2.5 - 3.5. Coumadin given 3
   days ago. INR subtherapeutic today today s/p 2mg Vitamin K yesterday.
   2mg Coumadin administered last PM.
   -check PM [**Last Name (LF) **], [**First Name3 (LF) 178**] continue coumadin 2mg daily; will determine need
   for possible heparin bridge.
   -trend INR
   -PTT also noted to be elevated, DIC labs drawn
 fibrinogen and FDP
   both elevated; LFT's stable.
   # ARF - Cr elevated but stable.  Will continue to follow closely with
   multiple possible causes for renal failure
 diuresis, poor perfusion,
   hypotension, UTI. Will continue lasix unless Cr bumps.
   # DM type 2 -
   -Mostly appropriate levels. Continue to monitor.
   -ISS
   .
   # Dyslipidemia - continue statin
   .
   # FEN
 Now on ventilator with NG tube.   on tube feeds.  Continue
   bowel regimen, PPI.
   .
   #Access- Aline, RIJ
   .
   #Code- Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-17**] 12:35 PM
   Arterial Line - [**2178-8-17**] 01:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:  discussed with wife
   [**Name (NI) 66**] status: Full code
   Disposition:  ICU

2178-08-25 10:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, CHF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Lasix drip increased to 20mg per hour and Diurill added
   24 Hour Events:
   1.1L negative since midnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-23**] 07:30 AM
   Meropenem - [**2178-8-25**] 06:11 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2178-8-25**] 08:30 AM
   Fentanyl - [**2178-8-25**] 08:30 AM
   Other medications:
   per resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: No(t) Anemia
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2178-8-25**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.4
C (97.6
   HR: 71 (69 - 90) bpm
   BP: 112/55(73) {92/43(60) - 122/59(78)} mmHg
   RR: 12 (0 - 19) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 108.5 kg (admission): 101.2 kg
   Height: 74 Inch
   CVP: 6 (2 - 11)mmHg
   Total In:
                                                                  2,552 mL
                                                                    707 mL
   PO:
   TF:
                                                                    865 mL
                                                                     52 mL
   IVF:
                                                                  1,297 mL
                                                                    535 mL
   Blood products:
   Total out:
                                                                  2,375 mL
                                                                  1,820 mL
   Urine:
                                                                  2,375 mL
                                                                  1,820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    177 mL
                                                                 -1,113 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 658 (495 - 658) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.46/52/143/35/11
   Ve: 7.1 L/min
   PaO2 / FiO2: 358
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   mechanical valve sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right lower extremity edema: Absent
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   255 K/uL
   153 mg/dL
   1.4 mg/dL
   35 mEq/L
   3.8 mEq/L
   76 mg/dL
   99 mEq/L
   145 mEq/L
   29.2 %
   6.4 K/uL
        [image002.jpg]
                             [**2178-8-23**]  08:47 AM
                             [**2178-8-23**]  02:14 PM
                             [**2178-8-23**]  03:32 PM
                             [**2178-8-23**]  03:39 PM
                             [**2178-8-24**]  03:40 AM
                             [**2178-8-24**]  04:05 AM
                             [**2178-8-24**]  12:09 PM
                             [**2178-8-24**]  02:54 PM
                             [**2178-8-25**]  03:40 AM
                             [**2178-8-25**]  03:57 AM
   WBC
   8.9
   7.8
   6.4
   Hct
   28.0
   28.1
   29.2
   Plt
   272
   253
   255
   Cr
   1.4
   1.6
   1.5
   1.4
   TCO2
   35
   40
   40
   40
   39
   38
   Glucose
   156
   125
   168
   153
   Other labs: PT / PTT / INR:18.1/42.0/1.6, CK / CKMB /
   Troponin-T:41/3/0.10, ALT / AST:28/69, Alk Phos / T Bili:68/0.7,
   Differential-Neuts:85.6 %, Lymph:9.1 %, Mono:3.9 %, Eos:1.1 %,
   Fibrinogen:736 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:398
   IU/L, Ca++:8.5 mg/dL, Mg++:3.0 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: ESR: 122
   Imaging: CXR: infiltrates unchanged from yesterday
   Assessment and Plan
   67 yo man with CHF post volume resuscitation for urosepsis.
   Hypercarbic/Hypoxemic Respiratory Failure: 1L further off since
   midnight.  Currently doing well on an SBT --> will aim for extubation
   today after he wakes up a bit more
   Fevers: On meropenem for pseudomonas UTI - Day [**8-7**].  Foot wound
   debrided today - ESR high but exam not consistent with osteo
   CHF: goal 1L negative for the day
   Anticoagulation: Restart Coumadin - recheck later in the day
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-17**] 12:35 PM
   Arterial Line - [**2178-8-17**] 01:45 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33
   Patient is critically ill

2178-08-28 08:15:00 Physician Attending Progress Note
Chief Complaint: Hypotension, respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   feels well this am
   24 Hour Events:
 MULTI LUMEN - START [**2178-8-27**] 12:50 PM
 URINE CULTURE - At [**2178-8-27**] 01:43 PM
 PICC LINE - START [**2178-8-27**] 04:51 PM
 BLOOD CULTURED - At [**2178-8-27**] 05:20 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-8-28**] 05:51 AM
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2178-8-28**] 04:11 AM
   Other medications:
   per resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Musculoskeletal: foot pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2178-8-28**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 55 (55 - 68) bpm
   BP: 97/47(60) {88/15(42) - 118/64(70)} mmHg
   RR: 15 (11 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 103 kg (admission): 101.2 kg
   Height: 74 Inch
             Total In:
                                                                  4,001 mL
                                                                    662 mL
   PO:
                                                                  1,090 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,661 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  3,028 mL
                                                                    800 mL
   Urine:
                                                                  1,078 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    973 mL
                                                                   -138 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Loud), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   234 K/uL
   95 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.2 mEq/L
   41 mg/dL
   102 mEq/L
   136 mEq/L
   24.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2178-8-25**]  11:39 AM
                             [**2178-8-25**]  03:34 PM
                             [**2178-8-25**]  05:55 PM
                             [**2178-8-25**]  09:47 PM
                             [**2178-8-26**]  03:49 AM
                             [**2178-8-26**]  04:48 AM
                             [**2178-8-26**]  12:05 PM
                             [**2178-8-26**]  12:16 PM
                             [**2178-8-27**]  02:35 PM
                             [**2178-8-28**]  03:36 AM
   WBC
   7.5
   6.5
   Hct
   27.5
   24.1
   Plt
   277
   234
   Cr
   1.3
   1.2
   1.2
   0.9
   TropT
   0.06
   0.05
   TCO2
   36
   39
   42
   40
   36
   Glucose
   185
   137
   137
   95
   Other labs: PT / PTT / INR:27.8/75.0/2.7, CK / CKMB /
   Troponin-T:30/3/0.05, ALT / AST:28/69, Alk Phos / T Bili:68/0.7,
   Differential-Neuts:85.6 %, Lymph:9.1 %, Mono:3.9 %, Eos:1.1 %,
   Fibrinogen:736 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:398
   IU/L, Ca++:7.7 mg/dL, Mg++:3.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Assessment & Plan: The patient is a 67y/o M with a complex PMH with
   AVR, CHF, in ICU for hypotension after previous intiubation for resp
   failure/CHF.  Doing well this AM
   .
   # Hypotension- Stable.  Gentle fluid boluses prn.
   # CHF: still dry but need to monitor closely
   .
   #. Fevers - Although patient has been afebrile for 24 hours at this
   time, he has spiked fevers throughout his stay in the MICU despite
   treatment with adequate antibiotics for his pseudomonas UTI. Has had
   recent fevers there is concern for worsening or new infection, but
   still without clear source. CT showed no evidence for abdominal/pelvic
   source. No evidence of osteo on Xray and vascular commented that the
   wound does not look acutely infected. S/p debridement on [**2178-6-29**] with
   additional debridement on [**2178-8-25**]. Cdiff negative.
   - FU blood cs and micro results, pending
   - cdiff and stool cx neg
   - Will remove central line as soon as able, patient got picc yesterday
   but only single lumen
   .
   # anemia: hct down to 24 from 29 on [**8-25**]. Likely this is [**1-26**] phlebotomy
   (inc multiple blood cx). will continue to trend
   .
   .#Foot pain: will follow. If continues to be painful, will need to
   contact vascular [**Name2 (NI) 458**].
   .
   # s/p Mechanical AVR - currently on heparin bridge to coumadin with
   goal INR 2.5-3.5. INR today was 2.6. Patient needs bridge due to low EF
   and mechanical aortic valve. Received 2mg po vitamin K on [**2178-8-23**].
   - Continue heparin until therapeutic on coumadin (INR 2.5-3.5) for 48
   hours
   -continue to order coumadin
   .
   # DM type 2 - continue home lantus and insulin SS
   .
   # Dyslipidemia - continue statin
   .
   #. Leg Ulcer - vascular surgery is following and does not feel that
   wound is infected.
   - Wound vac changes per vascular surgery q3days
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-27**] 12:50 PM
   PICC Line - [**2178-8-27**] 04:51 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: